US07199135B2
N-(2,4-difluoro-5-{1-[3-({hydroxy[bis(4-methylphenyl)]acetyl}amino)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide:
Example 159 was prepared from hydroxy[bis(4-methylphenyl)]acetic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2,4-difluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 12: 1H NMR (400 MHz, CDCl3) δ 8.78–8.62 (s, br, 1 H), 8.37 (t, 1 H, J=9.6 Hz), 7.40 (d, 4 H, J=8.4 Hz), 7.28 (s, 1 H), 7.09 (d, 4 H, J=8.0 Hz), 6.84–6.74 (m, 1 H), 5.14–4.82 (br, 1 H), 3.55–3.40 (m, 2 H), 3.11–2.94 (m, 2 H), 2.94–2.78 (m, 1 H), 2.59–2.46 (m, 2 H), 2.46–2.36 (m, 1 H), 2.31 (s, 6 H), 2.11–1.91 (m, 4 H), 1.77–1.61 (m, 4 H), 1.04 (d, 6 H, J=7.2 Hz); ESMS m/e: 578.4 (M+H)+.

reactant | hydroxy[bis(4-methylphenyl)]acetic acid | OC(C(=O)O)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C16H16O3
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2,4-difluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C(=CC(=C(C1)NC(C(C)C)=O)F)F | C18H27F2N3O
product | N-(2,4-difluoro-5-{1-[3-({hydroxy[bis(4-methylphenyl)]acetyl}amino)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=C(C=C(C(=C1)F)C1CCN(CC1)CCCNC(C(C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)O)=O)NC(C(C)C)=O | C34H41F2N3O3
